US05650133
(c) Piperazine bis(bromoacetamide)
To a 1 L three-necked flask equipped with a magnetic stir bar, reflux condenser and addition funnel, was added bromo acetyl bromide (82.8 g, 0.41 mole) in CHCl3 (170 mL). The addition funnel was charged with a solution of piperazine (0.2 mole, 17.2 g) and triethylamine (70 mL) in CHCl3 (180 mL). The flask was chilled to -15° C. by means of a CH3CN/liquid N2 bath, and the amine was slowly added to the acid bromide. After the addition was complete the mixture was allowed to warm to ambient temperature and was stirred for 1 hour. The flask was then cooled to 0° C. and H2O (100 mL) was slowly added. The mixture was diluted with CHCl3 (500 mL) and the layers were separated. The organic layer was extracted with H2O (5×50 mL), 0.05N NaOH (5×50 mL) and H2O (200 mL), and dried (Na2SO4). The dark orange solution was filtered and concentrated to a beige solid. The material was purified by filtration through a bed of silica gel. The product eluted with 2-5% methanol/CH2Cl2. After combining and concentrating the desired fractions, 15.0 g (49.2%) of a white solid was obtained. The title product was recrystallized from warm 2-propanol (400 mL) affording 9.95 g. 1H NMR (CDCl3): δ 3.61 (dt, 6 H), 3.85 (s, 4 H).

reactant | bromo acetyl bromide | 0.41 mole, 82.8 g | BrCC(=O)Br | C2H2Br2O
reactant | piperazine | 0.2 mole, 17.2 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 70 mL | C(C)N(CC)CC | C6H15N
reactant | H2O | 100 mL | O | H2O
solvent | CHCl3 | 170 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 180 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | Piperazine bis(bromoacetamide) | 15.0 g, 49.2% | BrCC(=O)N.BrCC(=O)N.N1CCNCC1 | InChI=1S/C4H10N2.2C2H4BrNO/c1-2-6-4-3-5-1;2*3-1-2(4)5/h5-6H,1-4H2;2*1H2,(H2,4,5)
